US05294631
A mixture of 2-n-butyl-7-chloromethyl-1-(2-chlorophenyl)methyl-1H-benzimidazole, hydrochloride (1 g, 2.6 mmol) in dimethylsulfoxide (10 mL) was treated with sodium cyanide (153 mg, 3.12 mmol). The solid slowly went into solution, and after stirring for 3 hours at 25° C., the reaction was poured into water, some ammonium hydroxide solution was added and the resulting white precipitate was isolated to give 0.77 g of crude product; mp 122°-124° C. Crystallization from methylene chloride/hexane provided 0.68 g (84% of 2-n-butyl-1-(2-chlorophenyl)methyl-7-cyanomethyl-1H-benzimidazole; mp 124°-125° C.

reactant | 2-n-butyl-7-chloromethyl-1-(2-chlorophenyl)methyl-1H-benzimidazole, hydrochloride | 2.6 mmol, 1 g | Cl.C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)CCl
reactant | sodium cyanide | 3.12 mmol, 153 mg | [C-]#N.[Na+]
reactant | water | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-n-butyl-1-(2-chlorophenyl)methyl-7-cyanomethyl-1H-benzimidazole | 84% | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC=C2)CC#N | C20H20ClN3
